US08426411B2
To a suspension of 1-(2-ethyl-4-(4-methoxybenzyloxy)cyclopentyl)-6H-pyrrolo[2,3-e][1,2,4]-triazolo[4,3-a]pyrazine (0.323 g, 0.825 mmol, prepared using Z from Preparation #EE.1, A from Example #1, Step D, HATU, and TEA, B with DIEA, D with NaOH) in 1,4-dioxane (2.5 mL) was added NaH (0.035 g, 0.866 mmol, 60% dispersion in mineral oil) in portions. The reaction mixture was stirred at ambient temperature for about 30 min. SEM-Cl (0.15 mL, 0.83 mmol) was added. After about 30 min, the solvent was removed and the residue was partitioned between EtOAc (12 mL) and water (2 mL). The organic layer was separated and concd under reduced pressure. The residue was purified using silica gel chromatography (40 g) eluting with a gradient of 0-60% EtOAc in DCM to give 1-(2-ethyl-4-(4-methoxybenzyloxy)cyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.372 g, 86%): LC/MS (Table 1, Method b) Rt=2.96 min; MS m/z: 522 (M+H)+.

reactant | 1-(2-ethyl-4-(4-methoxybenzyloxy)cyclopentyl)-6H-pyrrolo[2,3-e][1,2,4]-triazolo[4,3-a]pyrazine | C(C)C1C(CC(C1)OCC1=CC=C(C=C1)OC)C1=NN=C2N1C1=C(N=C2)NC=C1 | C22H25N5O2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | [OH-].[Na+]
reactant | NaH | 0.866 mmol, 0.035 g | [H-].[Na+]
reactant | SEM-Cl | 0.83 mmol, 0.15 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 1-(2-ethyl-4-(4-methoxybenzyloxy)cyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.372 g, 86% | C(C)C1C(CC(C1)OCC1=CC=C(C=C1)OC)C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C | C28H39N5O3Si
